data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,4502,"CC(NC(=O)CNC(=O)C(C)N[C:1](=[OH+:2])[O:3][C:4](C)(C)C)C(=O)O.O=C([O-])C(F)(F)F.[Cl-]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4932,"CC(C)(C)[O:1][H:2].CCOC(=O)C1CCC[C:3](C)=[C:4]1[O-:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,7810,"CCC[C:1](=[C:2](C1=C(O)C=CC(Br)=C1)[N:3]1CCCC1C1=NN=NN1)[CH:4](C1=CC=C([N+](=O)[O-])C=C1)[OH2+:5].O.O=C([O-])C(F)(F)F|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5237,"CCC[O:1][CH:2](C)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1157,"O=S(=O)(O)[C:1]1([H:2])C=CC=C[C+:3]1Br.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,5714,"CC(=O)[O-:1].CC1=N[C:2](C(O)C2=CC=CC=C2)([H:3])[C:4](=[O:5])O1|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1275,"C1COCCN1.C=CC1=CC2=C(C=C1)[C:1]([N:2]1CCOCC1)([OH+:3][Ti-]([Cl])([Cl])([Cl])[Cl])CCO2|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6706,"C=C[C:1]([C:2](C)(C=CC)[OH:3])=[C:4](C)[O-:5]|(5, 4);((4, 1), 2);((2, 3), 3)"
train,pmechdb_split_0,0,6072,"CCOC(=O)CC[C:1](C#N)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3326,"CC(=O)[O-:1].O.O=C1NC2=C(C(C(F)(F)F)=CC=C2)C1=[N+:2](C1=CC(C(F)(F)F)=CC=C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7310,"C[C+]=C[Si:1](C)(C)C.C[O:2]C|(2, 1)"
train,pmechdb_split_0,0,9136,"CCCC1CCC2C3C[CH:1]=[C:2]4C[CH:3]([O:4]S(=O)(=O)C5=CC=C(C)C=C5)CCC4(C)C3CCC12C.CO|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7954,"ClC1=CC=CC([C:1]([O:2][O:3][CH:4]([C:5]2=CC=CC=C2)[O-:6])=[OH+:7])=C1|(6, 4);((4, 5), 3);((3, 2), 1);((1, 7), 7)"
train,pmechdb_split_0,0,5217,"CCC1CC[C:1](C)=[CH:2]1.O=S(=O)(O)[O:3][H:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,4966,"CC(C)(SCCS)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8463,"C[N+:1](C)=[C:2]1C=C[C:3](N=NC2=CC=CC=C2)([H:4])[CH:5]=[CH:6]1.O=S(=O)(O)[O-:7]|(7, 4);((4, 3), 5);((5, 6), 2);((2, 1), 1)"
train,pmechdb_split_0,0,2849,"O=[N+:1]=[O:2].O[C:3]1=[CH:4][CH:5]=[CH:6]C=C1|((3, 4), 5);((5, 6), 1);((1, 2), 2)"
train,pmechdb_split_0,0,10056,"N#[N+:1][CH2:2][C:3]1([O-:4])C2C=CC(C2)[CH2:5]1|(4, 3);((3, 5), 2);((2, 1), 1)"
train,pmechdb_split_0,0,269,"CCOC(=O)CC[C:1](C)([NH:2]CC)[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4171,"C=CC(O)(O)[NH2:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6203,"C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CNC=N1.COC1OC2COC(C3=CC=CC=C3)OC2C(I)C1O.O=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[I:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5566,"CCOC(C(C)C#N)[C+:1](C)[CH2:2][H:3].O=C(O)C1=CC=C([N+](=O)[O-])C=C1.[Cl-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,702,"CC1CCCC[CH:1]1[B-:2]1([O:3][OH:4])C2CCCC1CCC2.[OH-]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2640,"C1=CC=[NH+]C=C1.CCC(=O)[O:1][C:2](CC)(C1(CC2CCCCC2)N=C(CC)OC1=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6158,"C[C:1](C)=[O:2].C[C:3](=[CH2:4])[O-:5]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5791,"C[NH:1][C:2]1([OH2+:3])OCCO1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5168,"N[C:1](CC1=C(I)C=C2OCOC2=C1)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9453,"C1=CC=[N:1]C=C1.C[CH:2]([H:3])[CH2:4][O:5]P(=O)(Cl)Cl|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6822,"CC(C)C1CC(O)C2=CC3(O)C(C)(CCC21C)CC[C:1](=[O:2])[C:3]3(CO)[H:4].C[O:5][Na]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4373,"C[NH+]1CCC(C2=CC=CC=C2)([C:1](N)=[O+:2]C)CC1.C[OH:3].O=S(=O)([O-])[O-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2704,"COC1=CC=CC(CCC2C(=O)CCC3(C)C(=O)CCC23[O-:1])=C1.[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8749,"CC(C)(CC1=NC=CC=C1)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5203,"CC(O[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1.CCOC(=O)N[N-:1]C(=O)OCC.O=C(COC1=CC=CC=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5489,"CC(=O)O[I+:1]1(OC(C)=O)OC(=O)C2=C1C=CC=C2.CC(=O)[O-].COC1=NC(OC)=NC(C[OH:2])=C1|(2, 1)"
train,pmechdb_split_0,0,3588,"CC(=O)C(C(=O)N(CC1=CC=CC=C1)C(C)C)[NH2:1].CC(=O)O.CN1CCC23C[C:2](=[O:3])CCC2(O)C1CC1=CC=CC=C13|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9628,"C1=CC=C(CN2CC[C:1]3=[O+:2]C(C4=CC=CC=C4)=C[C:3]3([H:4])C2)C=C1.[Cl-].[OH2:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2855,"CCC(CC)[O-:1].Cl[P:2](Cl)(Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8730,"O=S(=O)(O)[O:1][H:2].OC[CH:3]=[CH:4][OH:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,8554,"COC(=O)C(C)[NH:1][C:2]1([OH2+:3])CCC2(O)C3CC4=C5C(=C(O)C=C4)OC1C52CCN3CC1CC1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4750,"C=CC(=C)C(CC1(C)C(C)CCC2(C)C(COCC3=CC=C(OC)C=C3)=CCCC21)[O:1][B-]1(O)OC(C(=O)OC(C)C)C(C(=O)OC(C)C)O1.[H:2][OH:3].[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10026,"C1=C[N:1]=[CH:2][CH:3]=[C:4]1[N:5]1CCCC1.CCOC(=O)CC=CC[O+:6](C([O-])(CC1=CC=CC=C1)OC(=NC1CCCCC1)NC1CCCCC1)[H:7]|(5, 4);((4, 3), 2);((2, 1), 7);((7, 6), 6)"
